US07425634B2
(42b) (2-ethyl-1,3-dioxan-2-yl)methyl benzoate
A mixture of 2-oxobutyl benzoate (5 g, 26 mmol), 1,3-propanediol (5.94 g, 78 mmol), triethyl orthoformate (3.85 g, 26 mmol) and p-toluenesulfonic acid monohydrate (448 mg, 2.36 mmol) was stirred at room temperature for 3 hours and 30 minutes. To the reaction mixture, ethyl acetate and diethyl ether were added and the mixture was washed with water and a saturated saline solution. The organic layer was dried over sodium sulfate and filtrated. The filtrate was concentrated under reduced pressure. The residue was dissolved in heptane/ethyl acetate (12/1) and subjected to NH silica gel column chromatography (elution solvent: n-heptane/ethyl acetate=12/1) to obtain the title compound (4.33 g, 65.5%) as a colorless viscous oil.

reactant | 2-oxobutyl benzoate | 26 mmol, 5 g | C(C1=CC=CC=C1)(=O)OCC(CC)=O | C11H12O3
reactant | 1,3-propanediol | 78 mmol, 5.94 g | C(CCO)O | C3H8O2
reactant | triethyl orthoformate | 26 mmol, 3.85 g | C(OCC)(OCC)OCC | C7H16O3
reactant | p-toluenesulfonic acid monohydrate | 2.36 mmol, 448 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2-ethyl-1,3-dioxan-2-yl)methyl benzoate | 4.33 g, 65.5% | C(C1=CC=CC=C1)(=O)OCC1(OCCCO1)CC | C14H18O4
